* C:\Users\elias\OneDrive\Escritorio\ELIAS\8vo_semestre\Lab_Electronica\Exp3\fig_4_5.asc
Q1 Vdd Vi N016 0 2N2222
R1 N016 0 1k
V1 Vi 0 SINE(0 1 1k)
V2 Vdd 0 15
Q2 Vdd N013 N015 0 2N2222
R2 N015 0 1k
R3 Vdd N013 1k
D1 N013 Vi 1N4148
Q3 Vdd Vi N014 0 2N2222
R4 N014 0 1k
V3 0 Vss 15
Q5 Vdd N012 Vo 0 2N2222
Q6 Vo N017 Vss 0 2N3906
D2 N012 Vi 1N4148
D3 Vi N017 1N4148
R5 Vdd N012 1k
R6 N017 Vss 1k
R7 Vo 0 1k
R12 Vdd N001 1k
R13 N007 Vss 1k
R14 N004 N006 1
R15 N006 N009 1
R16 0 N006 8
R17 N001 N007 10Meg
Q7 Vdd N001 N002 0 NPN
Q8 Vdd N002 N003 0 NPN
D6 N001 N005 D
D8 N005 Vi D
D9 Vi N010 D
D10 N010 N007 D
Q9 Vss N007 N011 0 PNP
Q10 Vss N011 N008 0 PNP
Q4 Vss Vi N014 0 2N3906
R8 N003 N001 8k
R9 N004 N003 120
R10 N008 N007 8k
R11 N009 N008 120
.model D D
.lib C:\Users\elias\OneDrive\Imágenes\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\elias\OneDrive\Imágenes\Documentos\LTspiceXVII\lib\cmp\standard.bjt
* Figura 4a)
.tran 2m
* Figura 4b)
* Figura 4c)
* Figura 4d)
.backanno
.end
