* C:\Users\elias\OneDrive\Escritorio\ELIAS\8vo_semestre\Lab_Electronica\Exp3\fig_4_5.asc
Q1 Vdd Vi N016 0 2N2222
R1 N016 0 1k
V1 Vi 0 SINE(0 1 1k)
V2 Vdd 0 15
Q2 Vdd N012 N015 0 2N2222
R2 N015 0 1k
R3 Vdd N012 1k
D1 N012 Vi 1N4148
Q3 Vdd Vi N013 0 2N2222
R4 N013 0 1k
V3 0 Vss 15
Q5 Vdd N011 N014 0 2N2222
Q6 N014 N017 Vss 0 2N3906
D2 N011 Vi 1N4148
D3 Vi N017 1N4148
R5 Vdd N011 1k
R6 N017 Vss 1k
R7 N014 0 1k
Q4 Vss Vi N013 0 2N3906
R8 Vdd N002 1.36k
R9 N010 Vss 1.36k
D4 N004 N005 1N4148
D5 N002 N004 1N4148
D6 N005 N008 1N4148
D7 N008 N010 1N4148
R10 N002 N010 1k
XQ7 Vdd N002 N003 tip122
XQ8 Vss N010 N009 tip126
R11 N003 N006 50
R12 N006 N009 50
R13 0 N006 8
D8 0 N001 1N4148
I1 N007 0 PULSE(0 30m 0 2m 0 1p 4m)
R14 N001 N007 1k
V4 N005 0 SINE(0 .5 1k)
.model D D
.lib C:\Users\elias\OneDrive\Imágenes\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\elias\OneDrive\Imágenes\Documentos\LTspiceXVII\lib\cmp\standard.bjt
* Figura 4a)
.tran 2m
* Figura 4b)
* Figura 4c)
* Figura 4d)
.include TIP122.LIB
.include TIP126.LIB
.backanno
.end
